US05665718
36.4 g (205 mmol) of BOC-glycine were dissolved in 300 ml of N,N-dimethylformamide and treated portionwise with 35.8 g (220 mmol) of 1,1'-carbonyldiimidazole. The solution was stirred at 50° for 30 minutes, 54.7 g (194 mmol) of (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1- c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamidoxime were added thereto and the mixture was stirred at 90° overnight. After evaporating the solvent the residue was dissolved in methylene chloride and the solution was washed with water, dried over magnesium sulfate and concentrated. By chromatography of the residue on silica gel while eluting with ethyl acetate there were obtained 73 g (89%) of (S)-1-(5-BOC-aminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one as a white foam, which was used in the next step without further purification.

reactant | BOC-glycine | 205 mmol, 36.4 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | 1,1'-carbonyldiimidazole | 220 mmol, 35.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1- c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamidoxime | 194 mmol, 54.7 g | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(N)=NO)CC2 | C14H13N5O2
reactant | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | (S)-1-(5-BOC-aminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 73 g, 89% | C(=O)(OC(C)(C)C)C1=NC(N(O1)CN)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C21H24N6O4
